US08404709B2
3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl thiophene-2-sulfonate
The title compound is prepared in analogy to example 10 from 50 mg (0.13 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one and 28 mg (0.15 mmol) of thiophene-2-sulfonyl chloride. 57 mg (81% of theory) of the product are obtained as a pale yellow solid.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.13 mmol, 50 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | thiophene-2-sulfonyl chloride | 0.15 mmol, 28 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl thiophene-2-sulfonate | S1C(=CC=C1)S(=O)(=O)OC1=C2C(C(=C(NC2=CC=N1)C)C(C)=O)C=1C=CC=C2C(C=C(OC12)C)=O | C25H20N2O6S2
